US05691349
The procedure described in Example 1 was repeated using 2-allylphenol (9.6 g), instead of 4-butoxyphenol, to prepare 3-(2-allylphenoxymethyl)-3-hydroxyquinuclidine which was dissolved in acetone and a solution of hydrogen chloride in ether added to afford 3-(2-allylphenoxymethyl)-3-hydroxyquinuclidine hydrochloride as a colourless solid, m.p. 102°-128° C.; microanalysis, found: C, 64.7; H, 8.0; N, 4.5% C17H23NO2.HCl.0.3H2O requires C, 64.8; H, 7.9; N, 4.4%; NMR (DMSO-d6): 1.6-1.8(1H, m), 1.7-2.0(2H, m), 2.1-2.3(2H, m), 3.0-3.5(8H, m), 4.0-4.1(2H, q), 5.0-5.1(2H, m), 5.5(1H, s), 5.9-6.1(1H, m), 6.8-7.0(2H, m), 7.1-7.3(2H, m) and 10.7(1H, br); m/z 274 (M+H).

reactant | 2-allylphenol | 9.6 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | 4-butoxyphenol | C(CCC)OC1=CC=C(C=C1)O | C10H14O2
reactant | 3-(2-allylphenoxymethyl)-3-hydroxyquinuclidine | C(C=C)C1=C(OCC2(CN3CCC2CC3)O)C=CC=C1 | C17H23NO2
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | 3-(2-allylphenoxymethyl)-3-hydroxyquinuclidine hydrochloride | Cl.C(C=C)C1=C(OCC2(CN3CCC2CC3)O)C=CC=C1 | InChI=1S/C17H23NO2.ClH/c1-2-5-14-6-3-4-7-16(14)20-13-17(19)12-18-10-8-15(17)9-11-18;/h2-4,6-7,15,19H,1,5,8-13H2;1H
